*source C:\Users\s2047117\Documents\CoolSpice\MyNetLists\nand.txt

.include "../Models/MOSIS.txt"
.param vdd=1.8
Vsupply vdd 0 vdd
.global vdd
Cload 0 nandOut 0.2pf

VVinA inA 0  pulse(0 vdd 0.95n .1n .1n 3.9n 8n)
VVinB inB 0  pulse(0 vdd 2.95n .1n .1n 7.9n 16n)

.subckt inv in out wp=1u wn=1u
Mn1 out in 0 0 ibm0p13nmos W='wn' L=0.12u
Mp1 out in vdd vdd ibm0p13pmos W='wp' L=0.13u
.ends

.subckt nand inA inB out wp=2u wn=1u
Mp1 vdd inA out vdd ibm0p13nmos W='wp' L=0.13u
Mp2 vdd inB out vdd ibm0p13nmos W='wp' L=0.13u
Mn2 out inB mid 0 ibm0p13nmos W='wn' L=0.12u
Mn1 mid inA 0 0 ibm0p13nmos W='wn' L=0.12u
.ends

*input conditioning
xinvA1 inA midA inv wp=2.5u wn=1u
xinvA2 midA nandA inv wp=2.5u wn=1u
xinvB1 inB midB inv wp=2.5u wn=1u
xinvB2 midB nandB inv wp=2.5u wn=1u
*NAND gate
xnand1 nandA nandB nandOut nand wp=5u wn=2u

.tran 5p 28n 0n
.end
.meas tran tplh_b1af TRIG V(inA) val='vdd/2.0' fall=1 targ V(nandOut) val='vdd/2.0' rise=1
.meas tran tplh_a1bf TRIG V(inB) val='vdd/2.0' fall=1 targ V(nandOut) val='vdd/2.0' rise=2
.meas tran tphl_arb1 TRIG V(inA) val='vdd/2.0' rise=2 targ V(nandOut) val='vdd/2.0' fall=2
.meas tran tphl_a1br TRIG V(inB) val='vdd/2.0' rise=2 targ V(nandOut) val='vdd/2.0' fall=3


.control
run
plot v(nandA) v(nandB) v(nandOut)
.endc
